US04055597
Step E: Preparation of Ethyl 8-Carbamoyl-12-acetoxyheptadecanoate
Ethyl 8-chlorocarbonyl-12-acetoxyheptadecanoate (8.38 g.; 0.02 mole) is added with stirring to a 28% solution of ammonia in water (concentrated ammonium hydroxide) (75 ml.). The amide forms at once and separates as a semi-solid. It is dissolved in ether, washed with water and dried over sodium sulfate. The ether is removed under vacuum to give the title compound as a semi-solid, yield 6.8 g. The product is purified by column chromatography on silica gel with 2% methanol in chloroform as eluant; pmr (CDCl3)δ 0.88 (3H,t), 2.02 (3H,s CH3COO), 4.12 (2H,q), 4.85 (1H,m HCO), 5.98 (2H,s NH2).

reactant | Ethyl 8-chlorocarbonyl-12-acetoxyheptadecanoate | 0.02 mole, 8.38 g | ClC(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C22H39ClO5
reactant | ammonia | N | H3N
solvent | water | 75 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | Ethyl 8-Carbamoyl-12-acetoxyheptadecanoate | C(N)(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C22H41NO5
